US06916921B2
To a solution of 30 g of (20S)-20-[(hydroxymethyl]-pregna-4-en-3-one and 13.5 g imidazole in 300 ml dichloromethane 26 ml of triisopropylsilylchloride were added dropwise at room temperature. The reaction mixture was stirred for 20 hours at the same temperature and then poured into water. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to give 45.4 g of crude (20S)-20-[((triisopropylsilyl)oxy)methyl]-pregna-4-en-3-one as a brown oil, which was used without further purification.

reactant | (hydroxymethyl]-pregna-4-en-3-one | OCCC[C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O | C22H34O2
reactant | imidazole | 13.5 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilylchloride | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | water | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | (20S)-20-[((triisopropylsilyl)oxy)methyl]-pregna-4-en-3-one | 45.4 g | C(C)(C)[Si](OC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)(C(C)C)C(C)C | C31H54O2Si
